US07585881B2
3-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-propionic acid ethyl ester
3-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-acrylic acid ethyl ester (5.76 g, 19.3 mmol) was hydrogenated with 10% Pd/C (3.0 g) in EtOH (100 ml) o.n. The reaction mixture was filtered and concentrated. The residue was triturated with hex. to give the title compound in 3.1 g (53%) yield. 1H-NMR: 8.76 (d, 2H), 7.73 (d, 2H), 4.14(m, 2H), 3.35 (m, 3H), 2.88 (q, 1H), 1.39 (d, 3H), 1.25 (t, 3H), 1.18 (m, 2H) and 0.73 (m, 2H).

reactant | 3-(4-cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-acrylic acid ethyl ester | 19.3 mmol, 5.76 g | C(C)OC(C(=CC1=NN=C(N1C1CC1)C1=CC=NC=C1)C)=O | C16H18N4O2
solvent | EtOH | 100 ml | CCO | C2H6O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
product | 3-(4-Cyclopropyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=NN=C(N1C1CC1)C1=CC=NC=C1)C)=O | C16H20N4O2
